US07041685B2
2-(3-Chloro-thiophen-2-yl)-5-(pyridin-3-yl)-[1,3,4]-oxadiazole
Nicotinic acid N′-(3-chloro-thiophene-2-carbonyl)-hydrazide: The title compound was prepared from 3-chloro-thiophene-2-carbonyl hydrazide (70 mg, 0.40 mmol) and nicotinoyl chloride hydrochloride (348 mg, 1.96 mmol) similar to Example 84b, and yielded 76 mg (68%) of white solid. 1H NMR (DMSO-d6): 10.82 (s, 1H), 10.33 (s, 1H), 9.07 (s, 1H), 8.79 (d, J=3.84 Hz, 1H), 8.26 (d, J=6.87 Hz, 1H), 7.93 (d, J=5.22 Hz, 1H), 7.58 (dd, J=7.55, 4.53 Hz, 1H), 7.23 (d, J=4.95 Hz, 1H).

reactant | Nicotinic acid N′-(3-chloro-thiophene-2-carbonyl)-hydrazide | ClC1=C(SC=C1)C(=O)NNC(C1=CN=CC=C1)=O | C11H8ClN3O2S
reactant | nicotinoyl chloride hydrochloride | 1.96 mmol, 348 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
product | 2-(3-Chloro-thiophen-2-yl)-5-(pyridin-3-yl)-[1,3,4]-oxadiazole | ClC1=C(SC=C1)C=1OC(=NN1)C=1C=NC=CC1 | C11H6ClN3OS
